*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:10:04 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "AOI33X4"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  AOI33X4 A1 B1 Y A2 B2 B0 A0
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A1 1.07906e-15
*|P (A1 X 0 0.7000 0.8550)
*|I (Mmn1@1:g Mmn1@1 g X 0 0.6325 0.4050)
*|I (Mmn1@2:g Mmn1@2 g X 0 1.2225 0.4050)
*|I (Mmn1@3:g Mmn1@3 g X 0 1.7975 0.4050)
*|I (Mmn1:g Mmn1 g X 0 2.3675 0.4050)
*|I (Mmp1@1:g Mmp1@1 g X 0 0.5875 1.1700)
C1 Mmp1@1:g VSS 8.09464e-16
C2 Mmn1:g VSS 4.03927e-17
C3 Mmn1@3:g VSS 6.29216e-17
C4 Mmn1@2:g VSS 7.21405e-17
C5 Mmn1@1:g VSS 7.10561e-17
C6 A1 VSS 2.30892e-17
Rl1 Mmn1@1:g Mmp1@1:g 92.102753 $W=0.039
Rl2 Mmp1@1:g Mmn1@2:g 56.461002 $W=0.039
Rl3 Mmp1@1:g Mmn1@3:g 87.637360 $W=0.039
Rl4 Mmp1@1:g Mmn1:g 52.725750 $W=0.039
Rk5 Mmp1@1:g A1 0.016170 $W=0.1
*
*|NET B1 1.05796e-15
*|P (B1 X 0 4.9000 0.8550)
*|I (Mmn4@1:g Mmn4@1 g X 0 3.1025 0.4050)
*|I (Mmn4@2:g Mmn4@2 g X 0 3.7025 0.4050)
*|I (Mmn4@3:g Mmn4@3 g X 0 4.3325 0.4050)
*|I (Mmn4:g Mmn4 g X 0 4.9475 0.4050)
C7 Mmn4:g VSS 7.18732e-17
C8 Mmn4@3:g VSS 7.11461e-17
C9 Mmn4@2:g VSS 4.38265e-17
C10 Mmn4@1:g VSS 4.08911e-17
C11 B1 VSS 8.30226e-16
Rl6 B1 Mmn4@1:g 44.922543 $W=0.039
Rl7 B1 Mmn4@2:g 53.021091 $W=0.039
Rl8 B1 Mmn4@3:g 52.614853 $W=0.039
Rl9 B1 Mmn4:g 102.614853 $W=0.039
*
*|NET Y 1.27139e-15
*|P (Y X 0 2.7000 0.8550)
*|I (Mmn2@1:d Mmn2@1 d X 0 1.0150 0.4050)
*|I (Mmn2@3:d Mmn2@3 d X 0 2.0600 0.4050)
*|I (Mmn5@1:d Mmn5@1 d X 0 3.4100 0.4050)
*|I (Mmn5@3:d Mmn5@3 d X 0 4.5400 0.4050)
*|I (Mmp3@1:d Mmp3@1 d X 0 3.0000 1.1700)
*|S (Y:3 3.4100 0.3650)
*|S (Y:4 2.6700 0.3650)
*|S (Y:6 2.0600 0.3650)
C12 Mmp3@1:d VSS 5.05998e-16
C13 Mmn5@3:d VSS 1.2742e-16
C14 Mmn5@1:d VSS 1.6398e-16
C15 Mmn2@3:d VSS 1.47111e-16
C16 Mmn2@1:d VSS 1.17262e-16
C17 Y:4 VSS 1.22835e-16
C18 Y VSS 8.67823e-17
Rk10 Y:4 Y 0.328709 $W=0.09
Rk11 Y:4 Y:3 0.546849 $W=0.09
Rk12 Y:6 Y:4 0.454084 $W=0.09
Rk13 Y:6 Mmn2@1:d 75.785210 $W=0.0815
Rk14 Y:6 Mmn2@3:d 75.000000 $W=0.09
Rk15 Y:3 Mmn5@1:d 75.000000 $W=0.0815
Rk16 Y:3 Mmn5@3:d 75.848328 $W=0.0815
Rk17 Mmp3@1:d Y 0.302404 $W=0.1
*
*|NET A2 7.36739e-16
*|P (A2 X 0 2.1000 0.8550)
*|I (Mmn2@1:g Mmn2@1 g X 0 0.9125 0.4050)
*|I (Mmn2@2:g Mmn2@2 g X 0 1.1175 0.4050)
*|I (Mmn2@3:g Mmn2@3 g X 0 1.9575 0.4050)
*|I (Mmn2:g Mmn2 g X 0 2.1625 0.4050)
*|I (Mmp2:g Mmp2 g X 0 0.7925 1.1700)
*|S (A2:2 0.9975 0.6325)
*|S (A2:9 2.1325 0.6325)
C19 Mmp2:g VSS 5.17214e-16
C20 Mmn2:g VSS 2.5655e-17
C21 Mmn2@3:g VSS 4.65982e-17
C22 Mmn2@2:g VSS 5.24561e-17
C23 Mmn2@1:g VSS 2.35678e-17
C24 A2:9 VSS 3.37712e-17
C25 A2:2 VSS 3.74763e-17
Rl18 A2:2 Mmn2@1:g 59.593281 $W=0.039
Rl19 Mmn2@2:g A2:2 73.054817 $W=0.039
Rl20 A2:9 Mmn2@3:g 94.208664 $W=0.039
Rl21 A2:9 Mmn2:g 47.408802 $W=0.039
Rl22 A2:2 Mmp2:g 71.991249 $W=0.039
Rl23 Mmp2:g A2:9 69.675552 $W=0.039
Rk24 Mmp2:g A2 0.009678 $W=0.13
*
*|NET B2 7.09343e-16
*|P (B2 X 0 3.5000 0.8550)
*|I (Mmn5@1:g Mmn5@1 g X 0 3.3075 0.4050)
*|I (Mmn5@2:g Mmn5@2 g X 0 3.5125 0.4050)
*|I (Mmn5@3:g Mmn5@3 g X 0 4.4375 0.4050)
*|I (Mmn5:g Mmn5 g X 0 4.6425 0.4050)
*|I (Mmp5@1:g Mmp5@1 g X 0 3.3075 1.1700)
*|S (B2:3 3.5125 0.6325)
*|S (B2:9 4.5100 0.7725)
C26 Mmp5@1:g VSS 4.60492e-16
C27 Mmn5:g VSS 2.79471e-17
C28 Mmn5@3:g VSS 5.65549e-17
C29 Mmn5@2:g VSS 2.7506e-17
C30 Mmn5@1:g VSS 4.0815e-17
C31 B2:9 VSS 4.53693e-17
C32 B2:3 VSS 2.20978e-17
C33 B2 VSS 2.85609e-17
Rl25 B2:3 Mmn5@1:g 100.425865 $W=0.039
Rl26 B2:3 Mmn5@2:g 35.771992 $W=0.039
Rl27 B2:9 Mmn5@3:g 106.227722 $W=0.039
Rl28 B2:9 Mmn5:g 129.304642 $W=0.039
Rl29 Mmp5@1:g B2:3 70.182434 $W=0.039
Rl30 Mmp5@1:g B2:9 6.712836 $W=0.094
Rk31 Mmp5@1:g B2 0.023719 $W=0.1
*
*|NET B0 1.00504e-15
*|P (B0 X 0 2.9000 0.6250)
*|I (Mmn3@1:g Mmn3@1 g X 0 2.8975 0.4050)
*|I (Mmn3@2:g Mmn3@2 g X 0 3.9075 0.4050)
*|I (Mmn3@3:g Mmn3@3 g X 0 4.1725 0.4050)
*|I (Mmn3:g Mmn3 g X 0 5.0525 0.4050)
C34 Mmn3:g VSS 5.0078e-17
C35 Mmn3@3:g VSS 5.23532e-17
C36 Mmn3@2:g VSS 2.69448e-17
C37 Mmn3@1:g VSS 3.72782e-17
C38 B0 VSS 8.38386e-16
Rl32 B0 Mmn3@1:g 24.232828 $W=0.039
Rl33 B0 Mmn3@2:g 21.867622 $W=0.039
Rl34 Mmn3@3:g B0 96.594978 $W=0.039
Rl35 B0 Mmn3:g 24.795059 $W=0.039
*
*|NET A0 1.01729e-15
*|P (A0 X 0 2.5000 0.6650)
*|I (Mmn0@1:g Mmn0@1 g X 0 0.5275 0.4050)
*|I (Mmn0@2:g Mmn0@2 g X 0 1.3825 0.4050)
*|I (Mmn0@3:g Mmn0@3 g X 0 1.6475 0.4050)
*|I (Mmn0:g Mmn0 g X 0 2.5725 0.4050)
*|I (Mmp0@1:g Mmp0@1 g X 0 0.3825 1.1700)
C39 Mmp0@1:g VSS 7.01893e-16
C40 Mmn0:g VSS 3.88589e-17
C41 Mmn0@3:g VSS 3.41201e-17
C42 Mmn0@2:g VSS 4.89995e-17
C43 Mmn0@1:g VSS 5.01002e-17
C44 A0 VSS 1.4332e-16
Rl36 Mmn0@1:g Mmp0@1:g 30.234888 $W=0.039
Rl37 Mmp0@1:g Mmn0@2:g 98.352859 $W=0.039
Rl38 Mmp0@1:g Mmn0@3:g 24.232828 $W=0.039
Rl39 Mmp0@1:g Mmn0:g 23.740160 $W=0.039
Rk40 Mmp0@1:g A0 0.018014 $W=0.1
*
*|NET 11 1.36221e-18
*|I (Mmn0@1:d Mmn0@1 d X 0 0.5800 0.4050)
*|I (Mmn1@1:d Mmn1@1 d X 0 0.5800 0.4050)
C45 Mmn0@1:d VSS 1.36221e-18
Rmw41 Mmn1@1:d Mmn0@1:d 0.001000 $W=1
*
*|NET 12 5.33534e-18
*|I (Mmn1@1:s Mmn1@1 s X 0 0.7725 0.4050)
*|I (Mmn2@1:s Mmn2@1 s X 0 0.7725 0.4050)
C46 Mmn1@1:s VSS 5.33534e-18
Rmw42 Mmn2@1:s Mmn1@1:s 0.001000 $W=1
*
*|NET 13 2.24904e-18
*|I (Mmn2@2:s Mmn2@2 s X 0 1.1700 0.4050)
*|I (Mmn1@2:d Mmn1@2 d X 0 1.1700 0.4050)
C47 Mmn2@2:s VSS 2.24904e-18
Rmw43 Mmn1@2:d Mmn2@2:s 0.001000 $W=1
*
*|NET 14 4.22889e-18
*|I (Mmn1@2:s Mmn1@2 s X 0 1.3025 0.4050)
*|I (Mmn0@2:d Mmn0@2 d X 0 1.3025 0.4050)
C48 Mmn1@2:s VSS 4.22889e-18
Rmw44 Mmn0@2:d Mmn1@2:s 0.001000 $W=1
*
*|NET 15 4.07685e-18
*|I (Mmn0@3:d Mmn0@3 d X 0 1.7225 0.4050)
*|I (Mmn1@3:d Mmn1@3 d X 0 1.7225 0.4050)
C49 Mmn0@3:d VSS 4.07685e-18
Rmw45 Mmn1@3:d Mmn0@3:d 0.001000 $W=1
*
*|NET 16 4.08884e-18
*|I (Mmn1@3:s Mmn1@3 s X 0 1.8775 0.4050)
*|I (Mmn2@3:s Mmn2@3 s X 0 1.8775 0.4050)
C50 Mmn1@3:s VSS 4.08884e-18
Rmw46 Mmn2@3:s Mmn1@3:s 0.001000 $W=1
*
*|NET 17 6.90979e-18
*|I (Mmn2:s Mmn2 s X 0 2.2650 0.4050)
*|I (Mmn1:d Mmn1 d X 0 2.2650 0.4050)
C51 Mmn2:s VSS 6.90979e-18
Rmw47 Mmn1:d Mmn2:s 0.001000 $W=1
*
*|NET 18 4.75885e-18
*|I (Mmn1:s Mmn1 s X 0 2.4700 0.4050)
*|I (Mmn0:d Mmn0 d X 0 2.4700 0.4050)
C52 Mmn1:s VSS 4.75885e-18
Rmw48 Mmn0:d Mmn1:s 0.001000 $W=1
*
*|NET 19 5.88913e-18
*|I (Mmn3@1:d Mmn3@1 d X 0 3.0000 0.4050)
*|I (Mmn4@1:d Mmn4@1 d X 0 3.0000 0.4050)
C53 Mmn3@1:d VSS 5.88913e-18
Rmw49 Mmn4@1:d Mmn3@1:d 0.001000 $W=1
*
*|NET 20 6.95337e-18
*|I (Mmn4@1:s Mmn4@1 s X 0 3.2050 0.4050)
*|I (Mmn5@1:s Mmn5@1 s X 0 3.2050 0.4050)
C54 Mmn4@1:s VSS 6.95337e-18
Rmw50 Mmn5@1:s Mmn4@1:s 0.001000 $W=1
*
*|NET 21 6.57774e-18
*|I (Mmn5@2:s Mmn5@2 s X 0 3.6075 0.4050)
*|I (Mmn4@2:d Mmn4@2 d X 0 3.6075 0.4050)
C55 Mmn5@2:s VSS 6.57774e-18
Rmw51 Mmn4@2:d Mmn5@2:s 0.001000 $W=1
*
*|NET 22 6.96161e-18
*|I (Mmn4@2:s Mmn4@2 s X 0 3.8050 0.4050)
*|I (Mmn3@2:d Mmn3@2 d X 0 3.8050 0.4050)
C56 Mmn4@2:s VSS 6.96161e-18
Rmw52 Mmn3@2:d Mmn4@2:s 0.001000 $W=1
*
*|NET 23 4.22752e-18
*|I (Mmn3@3:d Mmn3@3 d X 0 4.2525 0.4050)
*|I (Mmn4@3:d Mmn4@3 d X 0 4.2525 0.4050)
C57 Mmn3@3:d VSS 4.22752e-18
Rmw53 Mmn4@3:d Mmn3@3:d 0.001000 $W=1
*
*|NET 24 2.24904e-18
*|I (Mmn4@3:s Mmn4@3 s X 0 4.3850 0.4050)
*|I (Mmn5@3:s Mmn5@3 s X 0 4.3850 0.4050)
C58 Mmn4@3:s VSS 2.24904e-18
Rmw54 Mmn5@3:s Mmn4@3:s 0.001000 $W=1
*
*|NET 25 5.90293e-18
*|I (Mmn5:s Mmn5 s X 0 4.7950 0.4050)
*|I (Mmn4:d Mmn4 d X 0 4.7950 0.4050)
C59 Mmn5:s VSS 5.90293e-18
Rmw55 Mmn4:d Mmn5:s 0.001000 $W=1
*
*|NET 26 1.36221e-18
*|I (Mmn4:s Mmn4 s X 0 5.0000 0.4050)
*|I (Mmn3:d Mmn3 d X 0 5.0000 0.4050)
C60 Mmn4:s VSS 1.36221e-18
Rmw56 Mmn3:d Mmn4:s 0.001000 $W=1
*
*|NET net124 9.96014e-16
*|I (Mmp0@1:d Mmp0@1 d X 0 0.2900 1.1700)
C61 Mmp0@1:d VSS 9.96014e-16
*
*Instance Section
*
Mmn0@1	Mmn0@1:d	Mmn0@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0364P	PD=0.64U	PS=0.8U
+ fw=2.6e-07 sa=1.4e-07 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn1@1	Mmn1@1:d	Mmn1@1:g	Mmn1@1:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0611P	PD=0.64U	PS=0.99U
+ fw=2.6e-07 sa=2.45e-07 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn2@1	Mmn2@1:d	Mmn2@1:g	Mmn2@1:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0611P	PD=0.84U	PS=0.99U
+ fw=2.6e-07 sa=5.25e-07 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn2@2	Mmn2@1:d	Mmn2@2:g	Mmn2@2:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0156P	PD=0.84U	PS=0.64U
+ fw=2.6e-07 sa=7.3e-07 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn1@2	Mmn1@2:d	Mmn1@2:g	Mmn1@2:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0299P	PD=0.64U	PS=0.75U
+ fw=2.6e-07 sa=8.35e-07 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn0@2	Mmn0@2:d	Mmn0@2:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0299P	AS=0.0806P	PD=0.75U	PS=1.35U
+ fw=2.6e-07 sa=9.95e-07 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn0@3	Mmn0@3:d	Mmn0@3:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0273P	AS=0.0806P	PD=0.73U	PS=1.35U
+ fw=2.6e-07 sa=1.26e-06 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn1@3	Mmn1@3:d	Mmn1@3:g	Mmn1@3:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0273P	AS=0.0299P	PD=0.73U	PS=0.75U
+ fw=2.6e-07 sa=1.41e-06 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn2@3	Mmn2@3:d	Mmn2@3:g	Mmn2@3:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0299P	PD=0.84U	PS=0.75U
+ fw=2.6e-07 sa=1.57e-06 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn2	Mmn2@3:d	Mmn2:g	Mmn2:s	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.0416P	AS=0.0416P	PD=0.84U	PS=0.84U
+ fw=2.6e-07 sa=1.775e-06 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn1	Mmn1:d	Mmn1:g	Mmn1:s	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0416P	PD=0.84U	PS=0.84U
+ fw=2.6e-07 sa=1.98e-06 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0962P	PD=0.84U	PS=1.47U
+ fw=2.6e-07 sa=2e-06 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn3@1	Mmn3@1:d	Mmn3@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0962P	PD=0.84U	PS=1.47U
+ fw=2.6e-07 sa=2e-06 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn4@1	Mmn4@1:d	Mmn4@1:g	Mmn4@1:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0416P	PD=0.84U	PS=0.84U
+ fw=2.6e-07 sa=2e-06 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn5@1	Mmn5@1:d	Mmn5@1:g	Mmn5@1:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0416P	PD=0.84U	PS=0.84U
+ fw=2.6e-07 sa=2e-06 sb=1.885e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn5@2	Mmn5@1:d	Mmn5@2:g	Mmn5@2:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0377P	PD=0.84U	PS=0.81U
+ fw=2.6e-07 sa=2e-06 sb=1.68e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn4@2	Mmn4@2:d	Mmn4@2:g	Mmn4@2:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0377P	AS=0.0416P	PD=0.81U	PS=0.84U
+ fw=2.6e-07 sa=2e-06 sb=1.49e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn3@2	Mmn3@2:d	Mmn3@2:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0806P	PD=0.84U	PS=1.35U
+ fw=2.6e-07 sa=2e-06 sb=1.285e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn3@3	Mmn3@3:d	Mmn3@3:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0299P	AS=0.0806P	PD=0.75U	PS=1.35U
+ fw=2.6e-07 sa=2e-06 sb=1.02e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn4@3	Mmn4@3:d	Mmn4@3:g	Mmn4@3:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0299P	AS=0.0156P	PD=0.75U	PS=0.64U
+ fw=2.6e-07 sa=2e-06 sb=8.6e-07 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn5@3	Mmn5@3:d	Mmn5@3:g	Mmn5@3:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0156P	PD=0.84U	PS=0.64U
+ fw=2.6e-07 sa=2e-06 sb=7.55e-07 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn5	Mmn5@3:d	Mmn5:g	Mmn5:s	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.0416P	AS=0.0676P	PD=0.84U	PS=1.04U
+ fw=2.6e-07 sa=2e-06 sb=5.5e-07 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn4	Mmn4:d	Mmn4:g	Mmn4:s	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0676P	AS=0.0156P	PD=1.04U	PS=0.64U
+ fw=2.6e-07 sa=2e-06 sb=2.45e-07 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn3	Mmn3:d	Mmn3:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0364P	PD=0.64U	PS=0.8U
+ fw=2.6e-07 sa=2e-06 sb=1.4e-07 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmp0@1	Mmp0@1:d	Mmp0@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.06386P	PD=1.1U	PS=1.1075U	M=4
+ fw=3.9e-07 sa=1.4e-07 sb=2e-06 sca=20.4303 scb=0.0198654 scc=0.00125373
Mmp1@1	Mmp0@1:d	Mmp1@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.06435P	AS=0.06386P	PD=1.11U	PS=1.1075U	M=4
+ fw=3.9e-07 sa=3.45e-07 sb=2e-06 sca=17.6981 scb=0.0155463 scc=0.00119019
Mmp2	Mmp0@1:d	Mmp2:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.39U
+ AD=0.06435P	AS=0.0624P	PD=1.11U	PS=1.1U	M=4
+ fw=3.9e-07 sa=5.5e-07 sb=2e-06 sca=16.6869 scb=0.0147126 scc=0.00118865
Mmp3@1	Mmp3@1:d	B0	Mmp0@1:d	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0624P	PD=1.1U	PS=1.1U	M=4
+ fw=3.9e-07 sa=2e-06 sb=2e-06 sca=16.2669 scb=0.0145797 scc=0.00118861
Mmp4@1	Mmp3@1:d	B1	Mmp0@1:d	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0624P	PD=1.1U	PS=1.1U	M=4
+ fw=3.9e-07 sa=2e-06 sb=2e-06 sca=16.2669 scb=0.0145797 scc=0.00118861
Mmp5@1	Mmp3@1:d	Mmp5@1:g	Mmp0@1:d	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0624P	PD=1.1U	PS=1.1U
+ M=4
+ fw=3.9e-07 sa=2e-06 sb=1.985e-06 sca=16.2669 scb=0.0145797 scc=0.00118861
.ENDS
.END
