*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:06:28 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "AOI221XL"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  AOI221XL C0 A1 B0 A0 Y B1
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET C0 1.96383e-16
*|P (C0 X 0 1.5000 1.0450)
*|I (Mmn4:g Mmn4 g X 0 1.6425 0.5225)
*|I (Mmp4:g Mmp4 g X 0 1.6975 1.1975)
*|S (C0:2 1.6700 0.8600)
C1 Mmp4:g VSS 2.51489e-17
C2 Mmn4:g VSS 2.70191e-17
C3 C0:2 VSS 7.88229e-17
C4 C0 VSS 6.53922e-17
Rl1 C0:2 Mmn4:g 89.560440 $W=0.039
Rl2 Mmp4:g C0:2 76.923080 $W=0.039
Rk3 C0:2 C0 45.203884 $W=0.1
*
*|NET A1 2.21761e-16
*|P (A1 X 0 0.5000 0.2850)
*|I (Mmn1:g Mmn1 g X 0 0.5025 0.5225)
*|I (Mmp1:g Mmp1 g X 0 0.5025 1.1975)
*|S (A1:2 0.5300 0.7050)
C5 Mmp1:g VSS 4.56957e-17
C6 Mmn1:g VSS 3.76165e-17
C7 A1:2 VSS 8.68134e-17
C8 A1 VSS 5.1635e-17
Rl4 A1:2 Mmn1:g 29.537926 $W=0.039
Rl5 Mmp1:g A1:2 135.307144 $W=0.039
Rk6 A1:2 A1 45.226379 $W=0.112
*
*|NET B0 2.4075e-16
*|P (B0 X 0 1.3000 0.8550)
*|I (Mmn2:g Mmn2 g X 0 1.2375 0.5225)
*|I (Mmp2:g Mmp2 g X 0 1.3125 1.1975)
*|S (B0:2 1.2750 0.8750)
*|S (B0:4 1.2750 0.8750)
C9 Mmp2:g VSS 3.38978e-17
C10 Mmn2:g VSS 4.38615e-17
C11 B0:2 VSS 1.6299e-16
Rl7 B0:2 Mmn2:g 95.604393 $W=0.039
Rl8 Mmp2:g B0:2 71.153847 $W=0.039
Rk9 B0 B0:4 0.004101 $W=0.31
Rk10 B0:2 B0:4 45.000000 $W=0.1
*
*|NET A0 1.91185e-16
*|P (A0 X 0 0.3000 1.0450)
*|I (Mmn0:g Mmn0 g X 0 0.3975 0.5225)
*|I (Mmp0:g Mmp0 g X 0 0.2975 1.1975)
*|S (A0:2 0.3350 0.8650)
*|S (A0:4 0.3175 0.8650)
*|S (A0:5 0.3350 0.8650)
*|S (A0:6 0.3175 1.0450)
C12 Mmp0:g VSS 3.21731e-17
C13 Mmn0:g VSS 5.43831e-17
C14 A0:6 VSS 3.12587e-17
C15 A0:4 VSS 2.39949e-17
C16 A0:2 VSS 4.93755e-17
Rl11 Mmn0:g A0:2 107.408012 $W=0.039
Rl12 A0:2 Mmp0:g 72.309746 $W=0.039
Rk13 A0:2 A0:5 45.000000 $W=0.18
Rk14 A0:4 A0:5 0.004428 $W=0.25
Rk15 A0 A0:6 0.004302 $W=0.25
Rk16 A0:4 A0:6 0.062801 $W=0.18
*
*|NET Y 2.44828e-16
*|P (Y X 0 1.9000 0.8550)
*|I (Mmn1:d Mmn1 d X 0 0.8000 0.5225)
*|I (Mmn4:d Mmn4 d X 0 1.7350 0.5225)
*|I (Mmp4:d Mmp4 d X 0 1.8150 1.1975)
*|S (Y:1 1.8500 0.8550)
*|S (Y:2 1.7450 0.6700)
C17 Mmp4:d VSS 2.40203e-17
C18 Mmn4:d VSS 1.08484e-17
C19 Mmn1:d VSS 7.75716e-17
C20 Y:2 VSS 7.84124e-17
C21 Y:1 VSS 4.04137e-17
C22 Y VSS 1.35613e-17
Rk17 Y Y:1 0.010145 $W=0.13
Rk18 Y:1 Y:2 0.224564 $W=0.1
Rk19 Y:2 Mmn1:d 75.636620 $W=0.08
Rk20 Y:2 Mmn4:d 75.073647 $W=0.1
Rk21 Y:1 Mmp4:d 62.228939 $W=0.09
*
*|NET B1 2.32539e-16
*|P (B1 X 0 0.9000 0.8550)
*|I (Mmn3:g Mmn3 g X 0 1.0975 0.5225)
*|I (Mmp3:g Mmp3 g X 0 1.0975 1.1975)
*|S (B1:2 1.0700 0.9050)
C23 Mmp3:g VSS 3.81935e-17
C24 Mmn3:g VSS 4.30997e-17
C25 B1:2 VSS 8.17724e-17
C26 B1 VSS 6.9473e-17
Rl22 B1:2 Mmn3:g 106.460999 $W=0.039
Rl23 Mmp3:g B1:2 58.384083 $W=0.039
Rk24 B1:2 B1 45.111191 $W=0.1
*
*|NET net124 1.22498e-18
*|I (Mmn0:d Mmn0 d X 0 0.4500 0.5225)
*|I (Mmn1:s Mmn1 s X 0 0.4500 0.5225)
C27 Mmn0:d VSS 1.22498e-18
Rmw25 Mmn1:s Mmn0:d 0.001000 $W=1
*
*|NET net116 0
*|I (Mmn3:s Mmn3 s X 0 1.1675 0.5225)
*|I (Mmn2:d Mmn2 d X 0 1.1675 0.5225)
Rmw26 Mmn2:d Mmn3:s 0.001000 $W=1
*
*|NET net107 2.13941e-16
*|I (Mmp0:d Mmp0 d X 0 0.4000 1.1975)
*|I (Mmp3:s Mmp3 s X 0 1.2050 1.1975)
C28 Mmp3:s VSS 1.22937e-16
C29 Mmp0:d VSS 9.10043e-17
Rk27 Mmp3:s Mmp0:d 124.727066 $W=0.08
*
*|NET net104 1.74136e-16
*|I (Mmp3:d Mmp3 d X 0 0.9700 1.1975)
*|I (Mmp2:d Mmp2 d X 0 1.5050 1.1975)
C30 Mmp2:d VSS 8.05548e-17
C31 Mmp3:d VSS 9.35809e-17
Rk28 Mmp2:d Mmp3:d 124.481674 $W=0.1
*
*Instance Section
*
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0087P	AS=0.0203P	PD=0.41U	PS=0.57U
+ fw=1.45e-07 sa=1.4e-07 sb=1.385e-06 sca=14.7993 scb=0.0157101 scc=0.000964917
Mmn1	Mmn1:d	Mmn1:g	Mmn1:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.07975P	AS=0.0087P	PD=1.39U	PS=0.41U
+ fw=1.45e-07 sa=2.45e-07 sb=1.28e-06 sca=14.7993 scb=0.0157101 scc=0.000964917
Mmn3	Mmn1:d	Mmn3:g	Mmn3:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.07975P	AS=0.01378P	PD=1.39U	PS=0.48U
+ fw=1.45e-07 sa=8.4e-07 sb=6.85e-07 sca=14.7993 scb=0.0157101 scc=0.000964917
Mmn2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.01378P	AS=0.0522P	PD=0.48U	PS=1.01U
+ fw=1.45e-07 sa=9.8e-07 sb=5.45e-07 sca=14.7993 scb=0.0157101 scc=0.000964917
Mmn4	Mmn4:d	Mmn4:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.0522P	PD=0.57U	PS=1.01U
+ fw=1.45e-07 sa=1.385e-06 sb=1.4e-07 sca=14.7993 scb=0.0157101 scc=0.000964917
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.04615P	PD=0.75U	PS=1.42U
+ fw=2.15e-07 sa=1e-07 sb=3.05e-07 sca=19.0229 scb=0.0208122 scc=0.00061956
Mmp1	Mmp0:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.0404P	PD=0.75U	PS=1.19U
+ fw=2.15e-07 sa=3.05e-07 sb=1e-07 sca=14.333 scb=0.0127992 scc=0.000339629
Mmp3	Mmp3:d	Mmp3:g	Mmp3:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.04515P	AS=0.03655P	PD=0.85U	PS=0.77U
+ fw=2.15e-07 sa=2.1e-07 sb=7.9e-07 sca=12.2475 scb=0.0108235 scc=0.000332112
Mmp2	Mmp2:d	Mmp2:g	Mmp3:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0731P	AS=0.03655P	PD=1.11U	PS=0.77U
+ fw=2.15e-07 sa=4.25e-07 sb=5.75e-07 sca=12.9588 scb=0.011186 scc=0.000332355
Mmp4	Mmp4:d	Mmp4:g	Mmp2:d	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.04085P	AS=0.0731P	PD=0.81U	PS=1.11U
+ fw=2.15e-07 sa=8.1e-07 sb=1.9e-07 sca=18.8069 scb=0.0204563 scc=0.000595877
.ENDS
.END
